Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
___: 
Exploratory laparotomy, gastrotomy and enterectomy and removal 
of foreign bodies.

 
History of Present Illness:
Pt is ___ y/o M who was found to be unresponsive by EMS ___.  
Per family, both pt and sister were drug mules and recently 
arrived from ___.  It is believed that pt had ingested 
packaged cocaine and heroin.  Pt was found unresponsive and 
given narcan.  His respiratory rate improved, however pt then
started posturing.  Pt was given ativan and subsequently 
intubated.  Pt was also hypotensive at OSH and started on 
Levophed.  Pt currently is off levophed.  

 
Past Medical History:
PMH: Unknown
PSH: Unknown
___: Unknown
ALL: Unknown
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
P ___  BP 115/76  R 16  SaO2 100%
Gen: intubated, sedated
Heent: no scleral icterus
Lungs: clear
Heart: regular rate and rhythm
Abd: soft, nontender, nondistended
Extrem: no edema

 
Pertinent Results:
LABORATORIES: 

___ 05:55PM BLOOD WBC-19.9* RBC-4.47* Hgb-14.7 Hct-41.7 
MCV-93 MCH-32.9* MCHC-35.2* RDW-13.0 Plt ___
___ 05:55PM BLOOD ___ PTT-27.2 ___
___ 09:00PM BLOOD Glucose-110* UreaN-16 Creat-0.9 Na-139 
K-5.2* Cl-108 HCO3-22 AnGap-14
___ 09:00PM BLOOD CK(CPK)-___*
___ 09:00PM BLOOD CK-MB-37* MB Indx-1.7 cTropnT-0.13*
___ 09:00PM BLOOD Calcium-7.4* Phos-2.6* Mg-1.8
___ 10:18PM URINE  cocaine-POS

MICROBIOLOGY: 
___ SputumCx ___: 2+GPCs prs/clstrs; 2+GNRs; Cx: oral flora

IMAGING: 
CT Head (___): 1. No acute intracranial abnormality. 2. Fluid 
within the sinuses, likely relates to endotracheal intubation. 

PATHOLOGY: None

 
Brief Hospital Course:
The patient was admitted to the acute care surgery service on 
___ as a transfer from an OSH.  He was taken to ther OR for 
an exploratory laparotomy, gastrotomy and removal of ingested 
foreign bodies.  The patient tolerated the procedure well.

Neuro: Prior to admission, patient was intubated in the field 
for non-responsiveness and anoxic brain injury was suspected at 
this time.  On transfer, the patient was intubated and sedated.  
Pt was taken from the OR directly to SICU where he remained 
sedated/intubated.  He remained sedated until extubated ___.  
Precedex was begun for agitation.  Mental status 

Post-operatively, the patient received Dilaudid IV/PCA with
good effect and adequate pain control. When tolerating oral 
intake,
the patient was transitioned to oral pain medications.

CV: The patient was stable from a cardiovascular standpoint; 
vital
signs were routinely monitored.

Pulmonary: Pulmonary toilet including incentive spirometry and 
early ambulation were encouraged.  The patient was stable from a 
pulmonary standpoint; vital signs were routinely monitored.

GI/GU: Post-operatively, the patient was given IV fluids until
tolerating oral intake. His diet was gradually advanced to 
regular and tolerated well.  He developed excessive diarrhea on 
___ along with leukocytosis and a stool specimen was 
positive for C difficile at which point he was started on a 14 
day course of Flagyl.

His mental status gradually improved and a cognitive evaluation 
bty the Occupational Therapist was essentially normal.  He was 
treated with antipsychotics during the acute period but all of 
this was stopped as he progressed back to baseline.

At the time of discharge he was doing well, afebrile with stable 
vital signs, tolerating a regular diet, ambulating, voiding 
without assistance, and pain free.

 
Medications on Admission:
none
 
Discharge Medications:
1. metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed for cdiff: thru ___.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Foreign body intestinal obstruction
2. Narcotic overdose
3. C Difficile colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the acute care surgery service for 
intestinal obstruction and toxic ingestion.
 
General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 10 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.
 
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___